US07186454B2
In a 200-ml flask equipped with a Soxhlet extractor including molecular sieves 4A as a dehydrating agent, a stirrer, a condenser and a thermometer were placed 21.4 g (100 mmol) of 3,3′-diaminobenzidine, 100 ml of acetone and 0.95 g (5 mmol) of p-toluenesulfonic acid monohydrate, followed by heating under reflux in a nitrogen atmosphere for 3 hours. After cooling to room temperature, acetone was removed under reduced pressure, and the residue was dissolved in ethyl acetate. The solution was washed with water and 10% aqueous sodium carbonate solution to remove a residual acid component. Ethyl acetate was removed from the solution under reduced pressure, and the residue was purified by silica gel chromatography to yield 28.5 g (76 mmol) of the target 3,3′-diaminobenzidine tetraisopropanimine [N,N′,N″,N′″-tetraisopropylidene-3,4,3′,4′-biphenyltetramine] in a yield of 76%.

reactant | 3,3′-diaminobenzidine | 100 mmol, 21.4 g | NC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)N | C12H14N4
reactant | p-toluenesulfonic acid monohydrate | 5 mmol, 0.95 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,3′-diaminobenzidine tetraisopropanimine | yield of 76% | C(C)(C)=N.C(C)(C)=N.C(C)(C)=N.C(C)(C)=N.NC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)N | InChI=1S/C12H14N4.4C3H7N/c13-9-3-1-7(5-11(9)15)8-2-4-10(14)12(16)6-8;4*1-3(2)4/h1-6H,13-16H2;4*4H,1-2H3
